US07569600B2
To a solution of 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (1.007 g, 2.19 mmol) in dry DMF was added iodomethane (4.10 mL, 65.7 mmol), the mixture was cooled to 0° C., and NaH (60% suspension in oil, 175 mg, 4.38 mmol) was added in portions over 5 min. The mixture was stirred at 0° C. for 1 h 40 min, and it was quenched by addition of water and acidified with 2N HCl. The mixture was diluted with CH2Cl2 and washed with brine. The organic fraction was separated, dried over Na2SO4, concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with 0→50% ethyl acetate in hexane to give 5-cyclohex-1-enyl-3-[(trans-4-methoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (857 mg, 83%). 1H NMR (DMSO-d6, 400 MHz): δ [ppm] 13.1-13.0 (bs, 1H), 6.96 (s, 1H), 6.41 (s, 1H), 4.31-4.24 (m, 1H), 3.12 (s, 3H), 2.90-2.84 (m, 1H), 2.42-2.20 (m, 2H), 2.15 (m, 2H), 1.98-1.78 (m, 4H), 1.68-1.64 (m, 2H), 1.58-1.35 (m, 8H), 1.21-1.02 (m, 5H), 0.87-0.77 (m, 1H), 0.72 (d, J=6.5 Hz, 3H), 0.63-0.46 (m, 2H)

reactant | 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.19 mmol, 1.007 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCCCC1 | C26H37NO4S
reactant | iodomethane | 65.7 mmol, 4.10 mL | IC | CH3I
reactant | NaH | 4.38 mmol, 175 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-cyclohex-1-enyl-3-[(trans-4-methoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 857 mg, 83% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)OC)C1=CCCCC1 | C27H39NO4S
